data/oMe_Silver.jsonl
{"reaction_id": "NR-203_1-C_2-c1ccc2ccccc2c1","level": "medium","name": "Nef Reaction","reactants_smiles": ["C(C)(c1ccc2ccccc2c1)([N+](=O)[O-])"],"products_smiles": ["O=C(C)(c1ccc2ccccc2c1)"],"conditions": "H3O+","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(c1ccc2ccccc2c1)=N([O-])=O","step_weight": 0,"rationale": "Protonation of the nitro group oxygen increases electrophilicity of nitrogen, facilitating tautomerization to the nitronic acid form under acidic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(c1ccc2ccccc2c1)=[N+]([O-])O","step_weight": 0,"rationale": "Further proton transfer stabilizes the nitronic acid tautomer by delocalizing positive charge onto nitrogen, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(c1ccc2ccccc2c1)=[N+](O)O","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen enhances the leaving ability of water in later steps and increases the electrophilicity of the nitrogen center."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(c1ccc2ccccc2c1)([NH+](O)O)[OH2+]","step_weight": 0,"rationale": "Water, abundant in acidic medium, attacks the electrophilic nitrogen-carbon center, driven by the positive charge and resonance stabilization of the intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(c1ccc2ccccc2c1)([NH+](O)O)[OH]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to the nitronic hydroxyl group prepares for elimination by generating a better leaving group."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[OH+]=C(C)(c1ccc2ccccc2c1)","step_weight": 0,"rationale": "Elimination of the protonated hydroxylamine fragment occurs because water is a good leaving group under acidic conditions, forming an oxonium ion intermediate."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C)(c1ccc2ccccc2c1)","step_weight": 0,"rationale": "Loss of a proton from the oxonium ion yields the neutral carbonyl product, driven by the thermodynamic stability of the C=O bond."}],"description": "Under acidic conditions, the nitro group of the nitroalkane is sequentially protonated and rearranged to form a nitronic acid, which undergoes hydration and elimination steps. Proton transfers and good leaving group formation drive the conversion to the corresponding carbonyl compound."}
{"reaction_id": "NR-308_1-C1CCCCC1","level": "medium","name": "Tollens Oxidation","reactants_smiles": ["O=CC1CCCCC1","O","[Ag+](N)N"],"products_smiles": ["O=C(O)(C1CCCCC1)","[Ag]"],"conditions": "Aqueous Ammonia","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O([Ag](N)(N))C([OH2+])C1CCCCC1","step_weight": 0,"rationale": "The carbonyl carbon of the aldehyde is electrophilic due to the polar C=O bond, allowing nucleophilic attack by the oxygen ligand of the diamminesilver complex under basic aqueous conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O([Ag](N)(N))C(O([Ag](N)(N)))C1CCCCC1","step_weight": 0,"rationale": "Proton transfer stabilizes the addition intermediate by deprotonating the oxonium species, favored in basic ammonia solution, yielding a more stable alkoxide coordinated to silver."},{"step": 3,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "[O]C(O([Ag](N)(N)))C1CCCCC1","step_weight": 0,"rationale": "Homolytic cleavage of the Ag–O bond occurs as silver is reduced, facilitated by the high reduction potential of Ag+ and the stability of the resulting oxygen-centered radical intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O[C](O([Ag](N)(N)))C1CCCCC1","step_weight": 0,"rationale": "A 1,2-shift rearranges the radical center to the carbon, driven by the formation of a more stable carbon-centered intermediate and relief of electron deficiency at oxygen."},{"step": 5,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "O=C(O)C1CCCCC1","step_weight": 0,"rationale": "Final homolytic cleavage of the C–O bond to silver releases the oxidized carboxylate product, favored by the stability of the carboxylate anion in aqueous ammonia and precipitation of metallic silver."}],"description": "In Tollens oxidation, the aldehyde undergoes nucleophilic addition by the diamminesilver(I) complex in aqueous ammonia, followed by proton transfers and oxidative steps that convert it into a carboxylate, with concurrent reduction of silver ions to metallic silver."}
